US07728012B2
3.1 Ethyl 2-(4-phenyl-1H-pyrazol-1-yl)pyridine-3-carboxylate
A mixture of 3.6 g of ethyl 2-chloronicotinate (19.4 mmol), 1.3 g of 4-phenylpyrazole (8.12 mmol), 4.4 g of K2CO3, 40 mg of 18-crown-6 and 30 mg of KI in 30 ml of N,N-dimethylformamide was stirred at 130° C. for 6 hours. For workup, H2O was added and, after extraction with ethyl acetate, the organic phase was washed with H2O and sat. NaCl solution. The crude product obtained after drying and concentration of the solution was purified by chromatography on silica gel (eluent: CH2Cl2/methanol 1-10%). In total, 1.9 g of an oil were obtained, which crystallized completely on standing in a refrigerator.

reactant | ethyl 2-chloronicotinate | 19.4 mmol, 3.6 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | 4-phenylpyrazole | 8.12 mmol, 1.3 g | C1(=CC=CC=C1)C=1C=NNC1 | C9H8N2
reactant | K2CO3 | 4.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | 18-crown-6 | 40 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | Ethyl 2-(4-phenyl-1H-pyrazol-1-yl)pyridine-3-carboxylate | 1.9 g | C1(=CC=CC=C1)C=1C=NN(C1)C1=NC=CC=C1C(=O)OCC | C17H15N3O2
